US06005118
To 1-cyclohexyl-3-ethyl-6-fluoro-1H-indazole hydrobromide (0.440 g, 1.34 mmol) was added 1N aqueous sodium hydroxide (10 mL) and toluene (10 mL). The biphasic mixture was stirred for one hour and the layers were separated. The aqueous layer was reextracted with toluene (10 mL), and the organic extracts were combined, dried over magnesium sulfate, and concentrated to 1-cyclohexyl-3-ethyl-6-fluoro-1H-indazole (0.310 g, 94% yield). 1H NMR (400 MHz, CDCl3) δ 1.33 (t, 3, J=7.7), 1.35-1.44 (m, 2), 1.47-1.96 (m, 8), 2.93 (q, 2, J=7.7), 4.14-4.22 (m, 1), 6.81 (dt, 1, J=8.9, 2.1), 6.99 (dd, 1, J=9.8, 2.1), 7.40 (ddd, 1, J=8.7, 5.2, 0.4). 13C NMR (100 MHz, CDCl3) δ 13.97, 20.53, 25.37, 25.84, 32.32, 58.18, 94.77, (d, J=27.4), 109.11 (d, J=26.0), 119.38, 121.75 (d, J=11.5), 139.89 (d, J=13.0), 146.61, 161.95 (d, J=242).

reactant | 1-cyclohexyl-3-ethyl-6-fluoro-1H-indazole hydrobromide | 1.34 mmol, 0.440 g | Br.C1(CCCCC1)N1N=C(C2=CC=C(C=C12)F)CC
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-cyclohexyl-3-ethyl-6-fluoro-1H-indazole | 0.310 g, 94% yield | C1(CCCCC1)N1N=C(C2=CC=C(C=C12)F)CC | C15H19FN2
